US07745475B2
3-[(1S)-2-Hydroxy-1-methylethoxy]-5-{4-[(2-methylazetidin-1-yl)carbonyl]phenoxy}-N-(5-methylpyrazin-2-yl)benzamide
DIPEA (0.20 mL, 1.04 mmol) was added to a suspension of 4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(5-methylpyrazin-2-yl)amino]carbonyl}phenoxy)benzoic acid (0.11 g, 0.26 mmol), HATU (210 mg, 0.55 mmol) and 2-methylazetidine (37 mg, 0.52 mmol) in DMF (3 mL) and the mixture stirred at ambient temperature for 24 hours. Ethyl acetate (30 mL) was added and washed with water (3×20 mL), brine (20 mL), dried (MgSO4), filtered and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 0-20% methanol in ethyl acetate, to give the desired compound (54 mg).

reactant | DIPEA | 1.04 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(5-methylpyrazin-2-yl)amino]carbonyl}phenoxy)benzoic acid | 0.26 mmol, 0.11 g | OC[C@@H](OC=1C=C(OC2=CC=C(C(=O)O)C=C2)C=C(C1)C(=O)NC1=NC=C(N=C1)C)C | C22H21N3O6
reactant | HATU | 0.55 mmol, 210 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-methylazetidine | 0.52 mmol, 37 mg | CC1NCC1 | C4H9N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(1S)-2-Hydroxy-1-methylethoxy]-5-{4-[(2-methylazetidin-1-yl)carbonyl]phenoxy}-N-(5-methylpyrazin-2-yl)benzamide | 54 mg | OC[C@@H](OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OC1=CC=C(C=C1)C(=O)N1C(CC1)C)C | C26H28N4O5
